Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Compazine / Motrin / Celexa / Amitriptyline Hcl / Neurontin
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
Lysis of adhesions

 
History of Present Illness:
___ woman with a long history of
abdominal pain and question of hernia.
She again describes as pain as right pelvic as well as lower
midline pain that has been present for at least four months.  
She
tells me she has also has associated nausea without emesis.   
She tells me the pain is severe at times and is growing weary of
worrying about it and always conflicted about going to the
emergency room. 

 
Past Medical History:
1. pulmonary embolism - ___ after left knee replacement, second 
after stopping coumadin, currently anti-coagulated on couamdin. 
neg hypercoag eval by heme)  
2. cellulitis - treated earlier this year for abdominal 
cellulitis
3. fibroids s/p supracervical hysterectomy, repair of bowel 
serosa injury, cystoscopy (___)  
4. fibromyalgia - diagnosed earlier this year by PCP ___ "leg 
and back pains"
5. osteoarthritis s/p bilateral knee replacement
6. left leg nerve entrapment 
7. ectopic pregnancy  
8. depression 
9. anxiety  
10. obesity  
11. sleep apnea 
12. migraines
13. GERD
14. chronic lower back pain
 
Social History:
___
Family History:
Father's health unknown except potential h/o stomach cancer; 
Uncle has unknown cancer.
Mother living at ___ with arthritis and osteoporosis
Aunt recently passed at ___ ___nd heart disease.
Grandmother with breast cancer
No siblings
Children healthy
 
Physical Exam:
Physical Examination:
General:  She is alert, in no acute distress.
HEENT:  Pupils are equal.  Sclerae are anicteric.  Oropharynx is
clear.
Neck:  Supple, no lymphadenopathy, no bruits.  Trachea is
midline.
Lungs:  Clear to auscultation bilaterally.
Heart:  Regular, no murmurs.
Abdomen:  Obese, soft and nondistended.  She is tender 
throughout
her entire abdomen, particularly in the epigastrium, bilateral
upper quadrants and in her bilateral lower quadrants.  She has a
transverse scar, ___, which is beneath her abdominal
pannus.  There is no infection or breakdown.  There are no
hernias to palpation.  Extremities are without edema.
Neurologically, she is nonfocal.

 
Pertinent Results:
___ 09:30AM BLOOD WBC-6.5 RBC-3.71* Hgb-9.6* Hct-32.6* 
MCV-88 MCH-25.9* MCHC-29.4* RDW-14.8 Plt ___
___ 10:30AM BLOOD WBC-7.0# RBC-4.10* Hgb-11.1* Hct-35.7* 
MCV-87 MCH-27.0 MCHC-31.0 RDW-14.7 Plt ___
___ 07:20AM BLOOD ___ PTT-78.1* ___
___ 10:00PM BLOOD ___ PTT-62.7* ___
___ 02:40PM BLOOD PTT-69.4*
___ 07:50AM BLOOD PTT-73.8*
___ 09:30AM BLOOD Glucose-125* UreaN-5* Creat-0.8 Na-139 
K-3.8 Cl-103 HCO3-29 AnGap-11
___ 10:30AM BLOOD Glucose-122* UreaN-6 Creat-0.7 Na-139 
K-3.6 Cl-103 HCO3-28 AnGap-12
___ 09:30AM BLOOD Calcium-8.3* Phos-3.4 Mg-2.1
___ 10:30AM BLOOD Calcium-8.7 Phos-2.5*# Mg-1.6
 
Brief Hospital Course:
The patient was admitted after undergoing lysis of adhesions. 
The patient tolerated the procedure well. She passed gas and was 
able to tolerate a regular diet, that was advanced slowly. The 
patient was able to ambulate, and her pain was well controlled. 
The patient was kept on a heparin drip to prevent clotting, as 
she has known history of clots. She was started on coumadin 
prior to discharge. She will continue with lovenox injections 
until her INR is therapeutic.
 
Medications on Admission:
ALBUTEROL SULFATE - 90 mcg HFA Aerosol Inhaler - 2 (Two) puff(s)
inhaled every ___ hours as needed for cough, difficulty 
breathing
BUPROPION HCL - 100 mg Tablet - one Tablet(s) by mouth twice a
day
LEUPROLIDE (3 MONTH) [LUPRON DEPOT (3 MONTH)] - 11.25 mg Syringe
Kit - for im injection q 3 months
LISINOPRIL - 40 mg Tablet - 1 Tablet(s) by mouth once a day
LORAZEPAM - 1 mg Tablet - one Tablet(s) by mouth each day
ONDANSETRON HCL [ZOFRAN] -  (Prescribed by Other Provider) -
Dosage uncertain
OXYCODONE-ACETAMINOPHEN - 5 mg-325 mg Tablet - ___ Tablet(s) by
mouth Q ___ hours
PANTOPRAZOLE [PROTONIX] -  (Not Taking as Prescribed) - 40 mg
Tablet, Delayed Release (E.C.) - 1 Tablet(s) by mouth twice a 
day
QUETIAPINE [SEROQUEL] - 200 mg Tablet - 2 Tablet(s) by mouth at
night
TIZANIDINE - 4 mg Tablet - ___ Tablet(s) by mouth at hs
WARFARIN - 5 mg Tablet - ___ Tablet(s) by mouth mon, wed, fri
and then 1 tab tues, thurs, sat, sun
ZOLPIDEM [AMBIEN CR] - 12.5 mg Tablet,Ext Release Multiphase - 1
(One) Tablet(s) by mouth once a day
 

 
Discharge Medications:
1. albuterol sulfate  Inhalation
2. bupropion HCl 100 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
3. lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
4. lorazepam 1 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for sleep.  
5. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
every ___ hours as needed for pain: do not operate heavy 
machinery while taking this medication.
Disp:*25 Tablet(s)* Refills:*0*
6. Protonix  Oral
7. Seroquel 400 mg Tablet Sig: One (1) Tablet PO at bedtime.  
8. tizanidine  Oral
9. warfarin 5 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*
10. Lovenox ___ mg/mL Syringe Sig: One (1)  Subcutaneous once a 
day: until INR is ___.
Disp:*7 * Refills:*2*
11. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
12. Ambien  Oral
13. Colace  Oral

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Abdominal Adhesions
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
DISCHARGE INSTRUCTIONS:
You were admitted to the ___ surgery service for lysis of 
adhesions. 
General Discharge Instructions:
Please resume all regular home medications, unless specifically
advised not to take a particular medication.  Please take any 
new
medications as prescribed.
Please take the prescribed analgesic medications as needed.  You 
may
not drive or operate heavy machinery while taking narcotic 
analgesic
medications.  You may also take acetaminophen (Tylenol) as 
directed,
but do not exceed 4000 mg in one day.
Please get plenty of rest, continue to walk several times per 
day, and
drink adequate amounts of fluids.  Avoid strenuous physical 
activity
and refrain from heavy lifting greater than 10 lbs., until you
follow-up with your surgeon, who will instruct you further 
regarding
activity restrictions.  Please also follow-up with your primary 
care
physician.
Incision Care:
*Please call your surgeon or go to the emergency department if 
you
have increased pain, swelling, redness, or drainage from the 
incision
site.
*Avoid swimming and baths until cleared by your surgeon.
*You may shower and wash incisions with a mild soap and warm 
water.
Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own.  
Please
remove any remaining strips ___ days after surgery.
 
Followup Instructions:
___